US04423076
1-Isobutyl-3-(2-Chloroethyl)-3-Nitrosourea (VIII).
A 2 g (11.2 mmol) quantity of 1-isobutyl-3-(2-chloroethyl) urea was dissolved in 25 ml of concentrated HCl:ethanol, 2:1, and cooled to 5° C. A solution of 773 mg (11.2 mmol) of sodium nitrite in 5 ml of water was added in portions and the mixture was stirred at this temperature for 2 hrs. The crystalline yellow solid was filtered and dried in vacuo overnight giving 1.6 g (70%) of the product, MP 51° C. (decomposes). IR analysis showed peaks at 1705/cm (C=O) and 1525/cm (C--N=O). NMR: Doublet (6H, J=6.8 Hz) at 0.9 ppm, multiplet (1H) at 2.0 ppm, multiplet (6H) at 3.7 ppm.

reactant | 1-isobutyl-3-(2-chloroethyl) urea | C(C(C)C)NC(=O)NCCCl | C7H15ClN2O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium nitrite | 11.2 mmol, 773 mg | N(=O)[O-].[Na+]
solvent | HCl | 25 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 1-Isobutyl-3-(2-Chloroethyl)-3-Nitrosourea | 1.6 g, 70% | C(C(C)C)NC(=O)N(N=O)CCCl | C7H14ClN3O2
